US07994176B2
3-(4-methoxycyclohexyl)-dihydro-furan-2-one
Stir a mixture of 3-(4-methoxyphenyl)-dihydro-furan-2-one (0.98 g), rhodium on carbone (5%, 0.98 g) and ethanol (50 mL) on a hydrogenation parr shaker at 60 psi, 60° C. for 18 hours. Remove the reaction from the parr shaker and filter the mixture through celite, concentrate the filtrate to afford 0.92 g (90%) of the title compound.

reactant | 3-(4-methoxyphenyl)-dihydro-furan-2-one | 0.98 g | COC1=CC=C(C=C1)C1C(OCC1)=O | C11H12O3
catalyst | rhodium | [Rh] | Rh
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(4-methoxycyclohexyl)-dihydro-furan-2-one | 0.92 g, 90% | COC1CCC(CC1)C1C(OCC1)=O | C11H18O3
